US09056859B2
A solution of 5-chloro-2-nitrophenyl methyl ether (5 g, 26.596 mmol) in dry DMF (150 mL) was cooled to 0° C. by ice water and NaH (3.51 g, 87.750 mmol, 60% purity) was added portionwise, and then the reaction was warmed to ambient temperature and stirred for 1.5 hours. The reaction was cooled to 0° C. and CH2(COOEt)2 (14.04 g, 87.768 mmol) was added. The result mixture was warmed to ambient temperature and heated to 80° C. for 13 hours. The reaction was cooled to ambient temperature and poured into ice water and added 2N HCl to adjust pH to 3. Extracted with EtOAc and the organic layer was washed with water, brine, dried over anhydrous sodium sulfate and concentrated. The crude product was purified via column chromatograph to afford diethyl (3-methoxy-4-nitrophenyl)propanedioate. 1H-NMR (400 MHz, CDCl3) δ ppm 7.86 (d, J=8.3 Hz, 1H), 7.25 (s, 1H), 7.07 (d, J=8.3 Hz, 1H), 4.67 (s, 1H), 4.23˜4.29 (m, 4H), 4.00 (s, 3H), 1.31 (t, J=7.0 Hz, 6H).

reactant | 5-chloro-2-nitrophenyl methyl ether | 26.596 mmol, 5 g | COC1=C(C=CC(=C1)Cl)[N+](=O)[O-] | C7H6ClNO3
reactant | NaH | 87.750 mmol, 3.51 g | [H-].[Na+]
reactant | CH2(COOEt)2 | 87.768 mmol, 14.04 g | C(C(=O)OCC)C(=O)OCC | C7H12O4
reactant | HCl | 2N | Cl | ClH
solvent | DMF | 150 mL | CN(C)C=O | C3H7NO
product | diethyl (3-methoxy-4-nitrophenyl)propanedioate | COC=1C=C(C=CC1[N+](=O)[O-])C(C(=O)OCC)C(=O)OCC | C14H17NO7
